US06380218B1
N-Allyl-2-(3-chloro-phenoxy)-nicotinamide
To a stirred solution of 2(3-chloro-phenoxy)-nicotinamide (0.084 g, 0.34 mmole) in methylsulfoxide (2 ml) was added potassium hydroxide powder (0.074 grams, 1.32 mmole) followed by allyl bromide ((0.082 grams, 0.68 mmole). After 1 hour the mixture was poured into water and extracted with methylene chloride. The combined organics were washed with brine, dried over MgSO4, filtered and concentrated to give a clear film (0.011 g). 1H NMR (400 mhz, CD3OD) d 4.37 (q, J=7.26 Hz, 1H), 4.82 (d, J=5.60 Hz, 1H), 5.26 (d, J=10.58 Hz, 1H), 5.40 (d J=17.0 Hz, 1H), 6.05 (m, 1H), 7.03 (m, 1H), 7.13 (m, 1H), 7.21 (m, 2H), 7.38 (t J=8.1 Hz, 1H), 8.30 (m, 2H).

reactant | 2(3-chloro-phenoxy)-nicotinamide | 0.34 mmole, 0.084 g | ClC=1C=C(OC2=C(C(=O)N)C=CC=N2)C=CC1 | C12H9ClN2O2
reactant | potassium hydroxide | 1.32 mmole, 0.074 grams | [OH-].[K+]
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | methylsulfoxide | 2 ml | CS(=O)C | C2H6OS
product | N-Allyl-2-(3-chloro-phenoxy)-nicotinamide | C(C=C)NC(C1=C(N=CC=C1)OC1=CC(=CC=C1)Cl)=O | C15H13ClN2O2
